US08431575B2
To a solution of 4-aminomethyl-1-benzyl-piperidin-4-ol (264 mmol, 58 g) in DCM (200 mL) and saturated NaHCO3 (200 mL) was added di-tert-butylcarbonate (396 mmol, 86.4 g). The reaction mixture was stirred for 12 hours. The layers were separated and the organic layer was washed with brine (50 mL) and evaporated. The product was purified on 1 L of SiO2 using a mixtures of ethyl acetate and DCM to give (1-benzyl-4-hydroxy-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester (31 g).

reactant | 4-aminomethyl-1-benzyl-piperidin-4-ol | 264 mmol, 58 g | NCC1(CCN(CC1)CC1=CC=CC=C1)O | C13H20N2O
reactant | di-tert-butylcarbonate | 396 mmol, 86.4 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
product | (1-benzyl-4-hydroxy-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | 31 g | C(C)(C)(C)OC(NCC1(CCN(CC1)CC1=CC=CC=C1)O)=O | C18H28N2O3
